US06548538B2
2-Bromo-N-(2,4-dichlorophenyl)-acetamide
This compound was prepared similarly to Example II-11 from 4.2 g of 2,4-dichloroaniline and 5.76 g of bromoacetyl bromide and 2.89 g of triethylamine in methylene chloride. This gave 5.9 g (80.4%) of the title compound.

reactant | 2,4-dichloroaniline | 4.2 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | bromoacetyl bromide | 5.76 g | BrCC(=O)Br | C2H2Br2O
reactant | triethylamine | 2.89 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-(2,4-dichlorophenyl)-acetamide | 5.9 g, 80.4% | BrCC(=O)NC1=C(C=C(C=C1)Cl)Cl | C8H6BrCl2NO
